US07423030B2
5,7-dimethoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 2.4 by reacting 1-chloro-5,7-dimethoxyphthalazine described in 13.2 with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 1-chloro-5,7-dimethoxyphthalazine | ClC1=NN=CC2=C(C=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 5,7-dimethoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | COC1=C2C=NN=C(C2=CC(=C1)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C26H28N4O2
